US04686230
3. 4-Difluoromethoxy-5,6-dimethoxy-2-[(4-methoxy-3-methyl-2-pyridyl)methylthio]-1H-benzimidazole
1.0 g of 4-difluoromethoxy-5,6-dimethoxy-1H-benzimidazole-2-thiol, 0.75 g of 2-chloromethyl-4-methoxy-3-methylpyridine hydrochloride, 0.3 g of sodium hydroxide, 2 ml of water and 10 ml of ethanol are stirred for 2.5 h at 60° C. The mixture is poured onto 100 ml of water and cooled in an ice bath. This gives 1.3 g (87%) of the title compound (m.p. 177°-179° C., from diisopropyl ether).

reactant | 4-difluoromethoxy-5,6-dimethoxy-1H-benzimidazole-2-thiol | 1.0 g | FC(OC1=C(C(=CC=2NC(=NC21)S)OC)OC)F | C10H10F2N2O3S
reactant | 2-chloromethyl-4-methoxy-3-methylpyridine hydrochloride | 0.75 g | Cl.ClCC1=NC=CC(=C1C)OC
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 4-Difluoromethoxy-5,6-dimethoxy-2-[(4-methoxy-3-methyl-2-pyridyl)methylthio]-1H-benzimidazole | 1.3 g, 87% | FC(OC1=C(C(=CC=2NC(=NC21)SCC2=NC=CC(=C2C)OC)OC)OC)F | C18H19F2N3O4S
